US06586421B2
tert-Butyl 6-[2-(dimethylamino)-2-oxoethyl]-1,4,5, 6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.113 g, 0.305 mmol) was dissolved in CH2Cl2 (3 mL) at rt. CF3CO2H (1 mL) was added and the reaction mixture was stirred for 40 min. The reaction mixture was concentrated to give a crude product (0.145 g). The crude product was dissolved in EtOAc (3 mL), then 1 N HCl in Et2O (6 mL) was added and the precipitated salt was collected by filtration. N,N-Dimethyl-2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetamide hydrochloride (0.0896 g) was obtained in 95% yield. 1H NMR (300 MHz, CD3OD) δ 2.99, 3.14-3.17, 3.21-3.24, 3.26, 3.47-3.50, 5.16, 7.08, 7.15, 7.30, 7.50; MS (ESI+) for C16H21N3O m/z 272.2 (M+H)+.

reactant | tert-Butyl 6-[2-(dimethylamino)-2-oxoethyl]-1,4,5, 6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.305 mmol, 0.113 g | CN(C(CN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C)=O)C | C21H29N3O3
reactant | CF3CO2H | 1 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | HCl | 1 N | Cl | ClH
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
solvent | Et2O | 6 mL | CCOCC | C4H10O
product | N,N-Dimethyl-2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetamide hydrochloride | 0.0896 g, 95% yield | Cl.CN(C(CN1C2=C(C=3C=CC=CC13)CCNCC2)=O)C | InChI=1S/C16H21N3O.ClH/c1-18(2)16(20)11-19-14-6-4-3-5-12(14)13-7-9-17-10-8-15(13)19;/h3-6,17H,7-11H2,1-2H3;1H
